US06262055B1
2,4-dioxo-4-[5-(3-fluorobenzyl)thiophen-2-yl]butanoic acid
To a cold (−78° C.) solution of 2-acetyl-5-(3-fluorobenzyl)thiophene (315 mg, 1.34 mmol) in anhydrous THF (5 mL) under an atmosphere of argon, LDA (0.7 mL, 2 M in a mixture of heptane, THF and ethylbenzene, 1.40 mmol) was added dropwise over a period of 10 min. After the reaction mixture was stirred at −78° C. for an additional 40 min, diethyl oxalate (0.26 mL, 1.91 mmol) was added over a period of 5 min. The resultant mixture was allowed to warm to rt and stirred overnight. The resultant solution was diluted with ethyl acetate, and neutralized with dilute HCl. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was triturated with hexane. The precipitate was filtered to provide the title compound as yellow solid.

reactant | 2-acetyl-5-(3-fluorobenzyl)thiophene | 1.34 mmol, 315 mg | C(C)(=O)C=1SC(=CC1)CC1=CC(=CC=C1)F | C13H11FOS
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
reactant | diethyl oxalate | 1.91 mmol, 0.26 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-dioxo-4-[5-(3-fluorobenzyl)thiophen-2-yl]butanoic acid | O=C(C(=O)O)CC(C=1SC(=CC1)CC1=CC(=CC=C1)F)=O | C15H11FO4S
